US07683076B2
To a solution of 3-methoxy-1-methyl-5-nitroquinolinium 4-methylbenzenesulfonate in methanol is added sodium borohydride at room temperature. The mixture is stirred at room temperature for 2 h and water is added. Water is added and the mixture is extracted with ethyl acetate. The organic layer is dried, filtered and concentrated under reduced pressure to give 3-methoxy-1-methyl-5-nitro-1,2-dihydroquinoline.

reactant | 3-methoxy-1-methyl-5-nitroquinolinium 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)[O-].COC=1C=[N+](C2=CC=CC(=C2C1)[N+](=O)[O-])C
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-methoxy-1-methyl-5-nitro-1,2-dihydroquinoline | COC=1CN(C2=CC=CC(=C2C1)[N+](=O)[O-])C | C11H12N2O3
